US07135466B2
3-Fluoro4-nitrophenol (300 mg), morpholine (800 μl), and calcium carbonate (50 mg) were added to dimethylformamide (3 ml), and the mixture was heated at 130° C. for 12 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give 3-morpholino-4-nitrophenol (400 mg, yield 94%). The resultant 3-morpholino-4-nitrophenol (400 mg) was added to dimethylformamide (3 ml). Palladium hydroxid-carbon (110 mg) and hydrogen were added thereto, and the mixture was stirred at room temperature for 4 hr. The reaction solution was filtered through Celite, and the filtrate was concentrated. The residue was then purified by chromatography on silica gel using chloroform/acetone for development to give 4-amino-3-morpholinophenol (296 mg, yield 85%). The resultant 4-amino-3-morpholinophenol (296 mg), 4-chloro-6,7-dimethoxyquinazoline (479 mg), and n-tetraethylammonium bromide (244 mg) were dissolved in ethyl methyl ketone (10 ml) to prepare a solution. A solution (10 ml) of sodium hydroxide (479 mg) in water was added to the solution, and the mixture was sitrred at 80° C. for 4 hr. Water was added to the reaction solution, and the organic layer was extracted and was concentrated. The residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (396 mg, yield 68%).

reactant | 3-Fluoro4-nitrophenol | 300 mg | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | morpholine | 800 μl | N1CCOCC1 | C4H9NO
reactant | calcium carbonate | 50 mg | C([O-])([O-])=O.[Ca+2]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-morpholino-4-nitrophenol | 400 mg, yield 94% | O1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])O | C10H12N2O4
